* SAME pair, but base and collector SEPARATED as they are in the cell:
* collector current forced, base driven by a source.  The standalone test
* that gave 1.043x had them tied (diode), so the forced current was Ic+Ib.
.lib /Users/cteusche/.ciel/sky130A/libs.tech/ngspice/sky130.lib.spice tt
VE ve 0 0.55
VBA ba 0 1.25
VBB bb 0 1.25
VCA ca 0 1.6
VCB cb 0 1.6
FA 0 0 VCA 0
IA ca a 0.5u
IB cb b 0.5u
XQA a ba ve 0 sky130_fd_pr__npn_05v5_W1p00L1p00
XQB b bb ve 0 sky130_fd_pr__npn_05v5_W1p00L1p00
.control
set noaskquit
* servo the bases by hand: find VBA that makes the collector node sit at 1.6
foreach r 1 2 4 8
  alter @IA[dc] = $r*0.5u
  op
  echo RATIO $r
  print i(VBA)
  print i(VBB)
end
.endc
.end
